US07776897B2
HOBt hydrate (82 mg), WSC hydrochloride (103 mg), and ammonia water (33 μl) were added to a THF (1 ml) and DMF (1 ml) solution of 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl]benzoic acid (150 mg) at room temperature, followed by stirring at the same temperature overnight. After most of the solvent was removed by evaporation under reduced pressure, water was added thereto and the whole was extracted four times with ethyl acetate. The organic layer washed with brine, dried over anhydrous magnesium sulfate, and filtered, and then the solvent was removed by evaporation. Ethyl acetate was added to the resulting white crystals, which was filtered and washed with ethyl acetate to obtain 120 mg of 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl]benzamide (white crystals).

reactant | HOBt hydrate | 82 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | WSC hydrochloride | 103 mg | CCN=C=NCCCN(C)C.Cl
reactant | ammonia water | 33 μl | O.N
reactant | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl]benzoic acid | 150 mg | N(C1=CC=CC=C1)C(C)(C)C=1N(C(=NN1)C1=CC=C(C(=O)O)C=C1)C | C19H20N4O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl]benzamide | 120 mg | N(C1=CC=CC=C1)C(C)(C)C=1N(C(=NN1)C1=CC=C(C(=O)N)C=C1)C | C19H21N5O
